US04912231
B. (trans)-1-Benzoyl-4-phenyl-L-proline
Following the procedure outlined in Example 2C, (cis)-1-benzoyl-4-[(cyclohexylsulfonyl)oxy]-L-proline was treated with aluminum chloride and benzene to afford a mixture consisting of:

reactant | (cis)-1-benzoyl-4-[(cyclohexylsulfonyl)oxy]-L-proline | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)O)C[C@@H](C1)OS(=O)(=O)C1CCCCC1 | C18H23NO6S
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (trans)-1-Benzoyl-4-phenyl-L-proline | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)O)C[C@H](C1)C1=CC=CC=C1 | C18H17NO3
